US05262568
A mixture of N-(m-ethylphenyl)-N-methylcyanamide (195 mg, 1.21 mmol) and 7-fluoro-1-aminonaphthalene hydrochloride (200 mg, 1.01 mmol) was heated in a preheated oil bath at 160° C. for 2.5 hours and then allowed to cool to room temperature. The resulting solid was taken up in dichloromethane and washed with 5% NAOH solution. The organic layer was concentrated and the resulting residue was treated at room temperature with 0.5M methanol-HCl solution (10 ml). It was concentrated and the resulting purple glass was purified by flash chromatography on silica gel to give N-(7-fluoro-1-naphthyl)-N'-(m-ethylphenyl)-N'-methylguanidine hydrochloride (192 mg, 53%) as off-white crystals. M.p.: 187°-90° C. IR (CHCl3): 1630, 3400 cm-1. 1H NMR (CD3Cl3): δ 1.259 (t, 3H, J=7.9 Hz), 2.431 (q, 2H, J=7.9 Hz), 3.564 (s, 3H), 6.76-7.94 (m, 10H). Anal. Calcd for C20H21N3FCl: C, 67.12; H, 5.92; N, 11.74. Found: C, 67.28; H, 6.00; N, 11.87.

reactant | N-(m-ethylphenyl)-N-methylcyanamide | 1.21 mmol, 195 mg | C(C)C=1C=C(C=CC1)N(C#N)C | C10H12N2
reactant | 7-fluoro-1-aminonaphthalene hydrochloride | 1.01 mmol, 200 mg | Cl.FC1=CC=C2C=CC=C(C2=C1)N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(7-fluoro-1-naphthyl)-N'-(m-ethylphenyl)-N'-methylguanidine hydrochloride | 192 mg, 53% | Cl.FC1=CC=C2C=CC=C(C2=C1)NC(=N)N(C)C1=CC(=CC=C1)CC | InChI=1S/C20H20FN3.ClH/c1-3-14-6-4-8-17(12-14)24(2)20(22)23-19-9-5-7-15-10-11-16(21)13-18(15)19;/h4-13H,3H2,1-2H3,(H2,22,23);1H
